US09334290B2
Triphosgene (453 mg, 1.53 mmol) was added in one portion to a solution of amino-N-(3-bromo-2-chlorophenyl)-3-fluorobenzamide (350 mg, 1.019 mmol) in THF (10 mL) at 0° C. The mixture was stirred at room temperature for 1 h, then was cooled to 0° C. and treated with water until no more gas evolution was observed. The mixture was concentrated and the residue was dissolved in EtOAc, washed sequentially with saturated aqueous NaHCO3, water and brine, and dried and concentrated. The residue was purified by column chromatography on silica gel (24 g), eluting with EtOAc-hexanes (gradient from 0-50%), to provide 3-(3-bromo-2-chlorophenyl)-8-fluoroquinazoline-2,4(1H,3H)-dione as a yellow solid (320 mg, 85% yield). Mass spectrum m/z 369, 371 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.54 (br. s., 1H), 7.97 (d, J=8.1 Hz, 1H), 7.77 (dd, J=6.8, 2.6 Hz, 1H), 7.46 (ddd, J=9.8, 8.3, 1.2 Hz, 1H), 7.36-7.29 (m, 2H), 7.24 (td, J=8.0, 4.8 Hz, 1H).

reactant | Triphosgene | 1.53 mmol, 453 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | amino-N-(3-bromo-2-chlorophenyl)-3-fluorobenzamide | 1.019 mmol, 350 mg | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)Cl)C=CC=C1F | C13H9BrClFN2O
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-chlorophenyl)-8-fluoroquinazoline-2,4(1H,3H)-dione | 320 mg, 85% yield | BrC=1C(=C(C=CC1)N1C(NC2=C(C=CC=C2C1=O)F)=O)Cl | C14H7BrClFN2O2
